US05834494
6-Chloro-5-methylthioindoline (D48)
6-Chloro-5-methylthioindole (D47) (0.72 g, 3.65 mmol) was treated with sodium cyanoborohydride as in the method of Description 10 to give the title compound (0.72 g, 98%) as a pale yellow oil.

reactant | 6-Chloro-5-methylthioindole | 3.65 mmol, 0.72 g | ClC1=C(C=C2C=CNC2=C1)SC | C9H8ClNS
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 6-Chloro-5-methylthioindoline | 0.72 g, 98% | ClC1=C(C=C2CCNC2=C1)SC | C9H10ClNS
